US06251890B1
Step 5: Preparation of 2,5,6,7-tetrahydro-1-thia-2,6-diaza-cyclopenta[cd]phenalene 1,1-dioxide
Potassium carbonate (15 mmol) is added to a solution of 7-nitro-2,3-dihydro-1H-Benz[de]isoquinoline-6-sulfonic acid amide (3 mmol) in anhydrous DMF (30 mL). The resulting solution is stirred at 100° C. for 12 hours then partitioned between ethyl acetate and water. The organic layer is dried over magnesium sulfate and concentrated to afford the title compound. The crude product can be purified by recrystallization or chromatography.

reactant | Potassium carbonate | 15 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | 7-nitro-2,3-dihydro-1H-Benz[de]isoquinoline-6-sulfonic acid amide | 3 mmol | [N+](=O)([O-])C=1C=2C3=C(CNCC3=CC1)C=CC2S(=O)(=O)N | C12H11N3O4S
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 2,5,6,7-tetrahydro-1-thia-2,6-diaza-cyclopenta[cd]phenalene 1,1-dioxide | S1(NC=2C3=C1C=CC=1CNCC(=CC2)C13)(=O)=O | C12H10N2O2S
